US06699880B1
Three-hundred (300) mg of 1-[1-(1-methoxycarbonylpiperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one was dissolved in 15 ml of tetrahydrofuran, and to which 33 mg of 60% sodium hydride was added. After evolution of a gas ceased, 93 μl of (2-bromoethyl)acetate was added, heated to 40° C. and stirred for 2 hours. The reaction liquid was concentrated and the remaining matter was distributed between water and chloroform. The chloroform layer was separated, dried over anhydrous sodium sulfate, concentrated and the residue was purified by silica gel column chromatography (chloroform/methanol=19/1). Thus 354 mg of 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-3-(2-acetoxy-ethyl)-1,3-dihydro-2H-benzimidazol-2-one was obtained. The product was dissolved in 10 ml of methanol, to which 35 mg of sodium borohydride was added and stirred for 7 hours at room temperature. The reaction liquid was concentrated, to which water was added and extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol=19/1), to provide 246 mg of the title compound as a colorless, amorphous substance.

reactant | 1-[1-(1-methoxycarbonylpiperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C19H26N4O3
reactant | sodium hydride | 33 mg | [H-].[Na+]
reactant | (2-bromoethyl)acetate | 93 μl | BrCCOC(C)=O | C4H7BrO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-3-(2-acetoxy-ethyl)-1,3-dihydro-2H-benzimidazol-2-one | 354 mg | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CCOC(C)=O)=O | C23H32N4O5
